US04795809
Preparation of 5-amino-3-hydroxy-2-(2-oxo-azetidin-1-yl)valeric acid
Benzyl 5-azido-3-hydroxy-2-(2-oxo-azetidin-1-yl)-valerate (1.6 g, 5 mmol) as a mixture of diastereoisomers prepared as Example 1, was hydrogenated at atmospheric pressure in ethanol (45 ml) and water (7 ml) with 5% palladium on carbon catalyst (900 mg). When no more hydrogen was absorbed the reaction mixture was filtered and the filtrate evaporated to yield a gum. Trituration with ether yielded a solid which was filtered off and dried under vacuum to yield a friable foam. The foam was triturated with methanol to give a white solid and pale yellow solution. The solid was filtered off and dried to yield the less soluble diasteroisomer of the title compound (294 mg) as a white powder m.p. 152°-153.5°. νmax (KBr) 3422, 1709, 1637, 1578, 1376, 1333, 1248, 1228 and 1151; δH (D2O, 250 MHz) 1.93 (2H, m), 3.03 (2H, t, J 4 Hz), 3.21 (2H, m), 3.55 (2H, m), and 4.21 (2H, m); δC (D2O, 100 MHz) 31.06, 36.23, 37.99, 41.03, 62.49, 69.54, 172.40 and 174.74. (Found: C, 45.85, H, 6.77; N, 12.94 %; C8H14N2O4 1/2H2O requires C, 45.49; H, 7.16; N, 13.26 %).

reactant | Benzyl 5-azido-3-hydroxy-2-(2-oxo-azetidin-1-yl)-valerate | 5 mmol, 1.6 g | N(=[N+]=[N-])CCC(C(C(=O)OCC1=CC=CC=C1)N1C(CC1)=O)O | C15H18N4O4
reactant | water | 7 ml | O | H2O
reactant | ether | CCOCC | C4H10O
solvent | ethanol | 45 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 900 mg | [Pd] | Pd
product | 5-amino-3-hydroxy-2-(2-oxo-azetidin-1-yl)valeric acid | 294 mg | NCCC(C(C(=O)O)N1C(CC1)=O)O | C8H14N2O4
